US04579863
iii. Preparation of trans N-methyl-2-(1-pyrrolidinyl)cyclohexanamine
A mixture of 7-Methyl-7-azabicyclo[4.1.0]heptane (7.0 g, 0.063M), pyrrolidine (17.92 g, 0.25M), water (10 ml) and ammonium chloride (0.16 g) was stirred and refluxed for 21 hours. The solution was cooled and solid sodium hydroxide added and extracted with ether (3×50 ml). The extracts were dried over magnesium sulphate and evaporated under reduced pressure to a brown oil. This was distilled under high vacuum to yield a colorless oil.

reactant | 7-Methyl-7-azabicyclo[4.1.0]heptane | 0.063M, 7.0 g | CN1C2CCCCC12 | C7H13N
reactant | pyrrolidine | 0.25M, 17.92 g | N1CCCC1 | C4H9N
reactant | ammonium chloride | 0.16 g | [Cl-].[NH4+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | trans N-methyl-2-(1-pyrrolidinyl)cyclohexanamine | CN[C@H]1[C@@H](CCCC1)N1CCCC1 | C11H22N2
